US04920132
5-(3-(3-(2-Quinolinylmethyloxy)Anilinocarbonyl)Phenyl)Tetrazole
When the procedure of Example 64 is followed and 3-(2-quinolinylmethyloxy)aniline is used in place of 3-amino-benzonitrile and 3-cyanobenzoic acid is used in place of 3-(2-quinolinylmethyloxy) benzoic acid, then the product prepared is 5-(3-(2-quinolinylmethyloxy)anilinocarbonyl)phenyl)tetrazole.

reactant | 3-(2-quinolinylmethyloxy)aniline | N1=C(C=CC2=CC=CC=C12)COC=1C=C(N)C=CC1 | C16H14N2O
reactant | 3-cyanobenzoic acid | C(#N)C=1C=C(C(=O)O)C=CC1 | C8H5NO2
reactant | tetrazole | N1N=NN=C1 | CH2N4
product | 5-(3-(3-(2-Quinolinylmethyloxy)Anilinocarbonyl)Phenyl)Tetrazole | N1=C(C=CC2=CC=CC=C12)COC=1C=C(NC(=O)C=2C=C(C=CC2)C2=NN=NN2)C=CC1 | C24H18N6O2
